US08110581B2
Step 4. tert-butyl 2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate
iso-Propylmagnesium bromide (1.0 M in THF, 1.5 mL) was slowly added to a solution of 1-tert-butyl 3-ethyl 3-{2-[(cis-4-hydroxycyclohexyl)amino]ethyl}piperidine-1,3-dicarboxylate (0.15 g, 0.38 mmol) at 0° C. and the mixture was stirred at this temperature for 1 h. The reaction was then poured into cold water and extracted with ethyl acetate, dried and concentrated to give the desired product (0.11 g, 85%). LC-MS: 353.2 (M+H)+, 297.1 (M+H-56)+.

reactant | iso-Propylmagnesium bromide | 1.0 M, 1.5 mL | C(C)(C)[Mg]Br
reactant | 1-tert-butyl 3-ethyl 3-{2-[(cis-4-hydroxycyclohexyl)amino]ethyl}piperidine-1,3-dicarboxylate | 0.38 mmol, 0.15 g | O[C@H]1CC[C@H](CC1)NCCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C21H38N2O5
solvent | water | O | H2O
product | tert-butyl 2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate | 0.11 g, 85% | O[C@H]1CC[C@H](CC1)N1C(C2(CC1)CN(CCC2)C(=O)OC(C)(C)C)=O | C19H32N2O4
